US09056859B2
1-(Piperazin-1-ylmethyl)-2,3-dihydro-1H-indene-4-carbonitrile was prepared starting from 1-formyl-2,3-dihydro-1H-indene-4-carbonitrile and tert-butyl piperazine-1-carboxylate in two steps in an analogous fashion to that described for the synthesis of 2-methoxy-4-[2-piperazin-1-yl)ethyl]benzonitrile above. 1H-NMR (400 MHz, MeOD) δ ppm 7.68 (d, J=7.8 Hz, 1H), 7.58 (d, J=7.8 Hz, 1H), 7.40 (t, J=7.4 Hz, 1H), 3.64˜3.88 (m, 10H), 3.40˜3.46 (m, 1H), 3.20˜3.30 (m, 1H), 3.07˜3.16 (m, 1H), 2.55˜2.70 (m, 1H), 2.10˜2.25 (m, 1H).

reactant | 1-formyl-2,3-dihydro-1H-indene-4-carbonitrile | C(=O)C1CCC=2C(=CC=CC12)C#N | C11H9NO
reactant | tert-butyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
product | 1-(Piperazin-1-ylmethyl)-2,3-dihydro-1H-indene-4-carbonitrile | N1(CCNCC1)CC1CCC=2C(=CC=CC12)C#N | C15H19N3
